Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
back pain

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is an ___ y/o woman with PMH notable for sciatica ___ 
years presenting with worsening back pain over the past ___ 
days.  
 Per patient, she had a recent PNA and was quite immobilized 
while being treated/recovering from this illness. As such, she 
may have triggered a flare of her chronic sciatica. She was 
recently seen in the outpatient clinic by episodic provider, Dr. 
___ noted on exam a positive contralateral straight leg 
raise, suggestive of and consistent with her prior history of 
right-sided sciatica. She was to be referred to outpatient 
orthopedics for possible injection and had plain films of 
___ which were unremarkable. At that point, she was noted to 
have one episode of fecal incontinence, which was new for her.  
 Today, she presented due to worsening pain. She denied any 
falls, but endorsed urinary incontinence x2 (because she could 
not make it to the bathroom in time) without fecal incontinence, 
saddle anesthesia, or numbness/weakness in leg. She has 
difficulty ambulating due to her pain and denies any prior back 
surgeries, injections. Of note, she is not on any blood thinning 
medications.  
 In the ED, initial vitals were: 97.7 90 153/80 16 98% RA  
 
 Exam notable for:  
 - ___ pain initially, improved subsequently to ___  
 - ___ strength in ___ with downgoing plantar reflex, ___ beats 
clonus bilaterally, normal rectal tone and perineal sensation  
 Labs notable for: normal CBC without leukocytosis and normal 
Chem10 without evidence of electrolyte abnormalities or kidney 
injury  
 However, given clinical concern, code cord was called and on 
imaging:  
 - MRI L spine w/o contrast showed: "Alignment is maintained. 
Vertebral body and intervertebral disc signal intensity appear 
normal. The spinal cord appears normal in caliber and 
configuration without evidence of spinal cord signal 
abnormality. There is a T1 and T2 hypointense lesion measuring 
1.0 x 0.6 cm (series 401: Image 8) which appears to contact the 
traversing and exiting nerve roots at the right L5-S1 vertebral 
level. This lesion is incompletely evaluated on this exam due to 
lack of contrast enhancement, however, possibly may represent a 
peripheral nerve sheath tumor. A hemangioma is noted in the L1 
vertebral body."  
 Patient was given:  
 - morphine 2 mg IV x3, lorazepam 0.5 mg IV x1  
 Patient was evaluated by spine surgery, who noted an entirely 
normal neurologic exam, with concern for acute-on-chronic spinal 
nerve compression based on what was visualized on MRI. Per their 
recommendations, patient was admitted to Medicine for further 
work-up and management.  
 Upon arrival to the floor, patient reports improved pain at 
rest, though still excruciating pain with movement. She denies 
numbness, tingling or weakness (strength limited by pain).  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
 - Sciatica  
 - Hypertension  
 - GERD  
 - Anxiety  
 - Depression  
 - Pre-diabetes  
 - History of falls  
 
Social History:
___
Family History:
Sister with hypertension and heart disease, now with pacemaker  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 VITAL SIGNS - T 97.9, BP 146/78, HR 71, R 18, SpO2 94%/RA  
 GENERAL - comfortable, laying in bed  
 HEENT - left eye blindness, right pupil reactive to light, 
moist mucous membranes, poor dentition  
 CARDIAC - regular, normal S1/S2 without murmurs  
 LUNGS - clear  
 ABDOMEN - soft, non-tender, normal bowel sounds  
 EXTREMITIES - patient refusing SLR and strength examination due 
to pain, no peripheral edema  
 NEUROLOGIC - sensation intact throught legs & perineum  
 SKIN - warm  

DISCHARGE PHYSICAL EXAM: 
============================
VITALS: 98.2PO 127 / 75 65 18 95 ra
GENERAL: Asleep in bed, rouses easily to voice. NAD.
HEENT: Sclerae anicteric. left eye blind and clouded over. Right 
pupil reactive to light. No LAD.
CARDIAC: regular, normal S1/S2 without murmurs
LUNGS: clear to auscultation bilaterally without rales, rhonci 
or wheezes.
ABDOMEN: soft, non-tender, normal bowel sounds
EXTREMITIES: patient with pain on contralateral straight leg 
raise and ipsilateral straight leg lowering. ___ strength at hip 
flexors/extensors and knee flexion/extension, as well as 
dorsi/plantarflexion. No peripheral edema
NEUROLOGIC - sensation intact throught legs & perineum
SKIN - warm
 
Pertinent Results:
ADMISSION LABS
===============
___ 05:21PM BLOOD WBC-9.1 RBC-5.02 Hgb-14.6 Hct-44.0 MCV-88 
MCH-29.1 MCHC-33.2 RDW-13.2 RDWSD-42.2 Plt ___
___ 05:21PM BLOOD Neuts-74.4* Lymphs-17.8* Monos-6.0 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-6.76*# AbsLymp-1.62 
AbsMono-0.55 AbsEos-0.11 AbsBaso-0.03
___ 05:21PM BLOOD ___ PTT-31.6 ___
___ 05:21PM BLOOD Glucose-174* UreaN-11 Creat-0.6 Na-134 
K-4.7 Cl-98 HCO3-22 AnGap-19

MICRO
=====
none

STUDIES
=======
___ MR ___ WITHOUT CONTRAST IMPRESSION:
1. Right paracentral disc herniation at L5-S1 extending 
inferiorly, with a
probable free fragment measuring 18 x 5 x 6 mm, which in 
combination with
facet arthropathy impinges the traversing right S1 nerve root in 
the
subarticular zone and moderately narrows the thecal sac with 
crowding of the intrathecal nerve roots.
2. The traversing left S1 nerve root is contacted by facet 
osteophytes in the left subarticular zone.  The exiting left L5 
nerve root is contacted by facet osteophytes in the moderately 
narrowed left neural foramen and also contacted by left lateral 
endplate osteophytes along its extraforaminal course.
3. Mild thecal sac narrowing at L3-L4 and L4-L5 without mass 
effect on the
intrathecal nerve roots.
4. L4-L5 neural foramina are mildly narrowed, and the exiting 
right L4 nerve root appears contacted by a facet osteophyte in 
the neural foramen. 
RECOMMENDATION(S): The preliminary report discussed by ___ 
with Dr. ___ at 21:30 on ___ suggested that 
the right paracentral abnormality at L5-S1 was a mass lesion, 
and MRI with contrast was recommended further evaluation.  
Appearances are highly suggestive for disc herniation, and a 
mass lesion appears much less likely.  Neurosurgical 
consultation is recommended.  If desired by neurosurgery, MRI 
with contrast certainly could be obtained.

___ MR ___ WITH CONTRAST IMPRESSION:
1. The previously demonstrated right paracentral lesion 
extending from the
L5-S1 disc space inferiorly along the S1 vertebral body 
demonstrates no
contrast enhancement, consistent with a disc herniation with a 
probable free fragment, as described in detail in the preceding 
noncontrast MRI report.
2. No evidence for an enhancing mass.

DISCHARGE LABS: 
___ 07:30AM BLOOD WBC-6.2 RBC-4.52 Hgb-13.2 Hct-40.8 MCV-90 
MCH-29.2 MCHC-32.4 RDW-13.2 RDWSD-43.8 Plt ___
___ 07:30AM BLOOD Plt ___ y/o woman with PMH notable for long-standing sciatica, 
presenting to ED with worsening acute-on-chronic pain similar to 
prior sciatica int he setting of reduced ambulation during 
recovery from pneumonia, admitted with poorly delineated T1-T2 
hypointense lesion noted on non-con MRI, which was later revised 
to be large disc herniation and disc fragment.

# ACUTE ON CHRONIC SCIATICA in the setting of 
# T1-T2 DISC HERNIATION WITH FRAGMENTATION: 
The patient had classic symptoms of sciatica, which had worsened 
over the past few weeks. She had been planned for further 
management as outpatient with orthopedics, but presented in 
significant distress with worsening symptoms. MRI revealed L5-S1 
disc herniation with disc fragment. Her pain was initially 
controlled with standing acetaminophen and breakthrough 
tramadol, progressed to 50mg tramadol q6H as well as standing 
toradol. She worked with physical therapy, who determined that 
she was safe to go home with rolling walker. Her home pain 
regimen on discharge consisted of Naproxen 500mg BID for 4 days 
and tramadol ___ q6h PRN for 4 days. She was advised take 
omeprazole 20mg while on naproxen and to pursue physical therapy 
if her pain does not improve in ___ weeks in order to optimize 
her functional status. 

CHRONIC ISSUES: 
=============== 
# Anxiety: patient was previously on sertraline but was no 
longer on it at time of admission so this was held. 
# Hypertension: continue home amlodipine 

TRANSITIONAL ISSUES:
====================
- Please ensure limited use of NSAIDs
- Please ensure followup with Orthopedic ___
- She should take omeprazole 20mg daily while on naproxen 
- She will get home ___, may require longer course of outpatient 
physical therapy if not improved. 
- She was provided with a walker on discharge for use at home 
due to difficulty bearing weight on her R leg ___ pain. 

 # CODE: presumed Full  
 # CONTACT: ___ (daughter)-- ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Sertraline 25 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate Duration: 4 Days 

RX *naproxen 500 mg 1 tablet(s) by mouth BID PRN Disp #*8 Tablet 
Refills:*0 
4.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*10 
Capsule Refills:*0 
5.  Senna 8.6 mg PO DAILY  
6.  Simethicone 40-80 mg PO QID:PRN gas pain  
7.  TraMADol ___ mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth q6h PRN Disp #*16 
Tablet Refills:*0 
8.  amLODIPine 5 mg PO DAILY  
9.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE BID  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS  
11.Outpatient Physical Therapy
ICD: M51.27. Pediatric rolling walker. Duration: 13 months, 
Prognosis: good 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
#SCIATICA
#UNCONTROLLED PAIN

SECONDARY DIAGNOSIS
===================
#ANXIETY
#HYPERTENSION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital/Fue un placer 
cuidarse ___ hospital. Abajo se incluye informacion ___ 
___ medico. 

WHY WAS I IN THE HOSPITAL?/Por Que estuve ___ hospital?
- Your back pain was much worse than usual and you could not 
bear ___ dolor se puso muy fuerto y no lo podia soportar 

WHAT HAPPENED IN THE HOSPITAL?/Que paso ___ hospital? 
- Pictures of your back showed a "herniated disc" which is 
likely the cause of your pain/El escaneo demostro un disco 
herniado (el disco es el L5), lo cual ___ 
___ dolor. 
- We gave you medicine for ___ para el 
dolor 
- The pain can get better with physical therapy and exercises 
but sometimes people do need surgery/el dolor se puede mejorar 
con terapia fisica y ejercisios per a veces algunas personas 
requieren cirujia 

WHAT SHOULD I DO WHEN I GO ___ en casa? 
- Take all your medications as below/Tomar todos ___ las instrucciones 
- Do not take more than 5 days of Naproxen without asking your 
primary care doctor/No tomar mas que 5 ___ de naproxen sin 
___ doctor ___ 

We wish you the best!
-Your Care Team at ___

 
Followup Instructions:
___